US04343811
2-[3-(2-Chloro-phenyl)-2-methyl-1H-indole-5-yloxy]2-methyl-propanoic acid ethylester
The above compound was prepared from 3-(2-chlorophenyl)-2-methyl-1H-indole-5-ol and 2-bromo-2-methyl-propanoic acid ethylester analogously to Example 10.

reactant | 3-(2-chlorophenyl)-2-methyl-1H-indole-5-ol | ClC1=C(C=CC=C1)C1=C(NC2=CC=C(C=C12)O)C | C15H12ClNO
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-[3-(2-Chloro-phenyl)-2-methyl-1H-indole-5-yloxy]2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)OC=1C=C2C(=C(NC2=CC1)C)C1=C(C=CC=C1)Cl)=O | C21H22ClNO3
